.SUBCKT XNOR2X1H7R A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
XXI4 A AN BN net19 VDD VSS / TG pl=60n pw=190n nl=60n nw=150n
XXI9 net19 VDD VSS Y / INV pl=60n pw=270n nl=60n nw=210n
XXI7 B VDD VSS BN / INV pl=60n pw=190n nl=60n nw=150n
XXI0 A VDD VSS AN / INV pl=60n pw=190n nl=60n nw=150n
XXI10 BN AN A VDD VSS net19 / TSINV pl=60n pw=190n nl=60n nw=150n
.ENDS
